US08067621B2
tert-Butyl-[11a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6,6a,7,8,9,10,11,11a-octahydro-cyclohepta[c]chromen-9-yloxy]-dimethyl-silane
A solution of 3-(tert-butyl-dimethyl-silanyloxy)-5-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-pentan-1-ol (730 mg, 1.30 mmol) in CH2Cl2 (10 mL) at 0° C. was treated with Et3N (360 μL, 2.6 mmol) followed by MsCl (150 μL, 1.95 mmol). After 30 min, the reaction mixture was quenched with saturated aqueous NH4Cl and extracted with CH2Cl2 (2×). The combined organic extracts were washed with saturated aqueous NaHCO3, dried over MgSO4 and concentrated in vacuo to provide the crude product. The residue was dissolved in THF (13 mL), cooled to 0° C. and treated with KOt-Bu (1 M in THF, 3.0 mL, 3.0 mmol). After 1 h, the reaction mixture was quenched with saturated aqueous NH4Cl and extracted with EtOAc (2×). The combined organic extracts were washed with saturated aqueous NaHCO3, brine, dried over MgSO4 and concentrated in vacuo to give the title compound (700 mg, 99% over 2 steps): 1H NMR (CDCl3 400 MHz) δ 7.63 (dd, J=8.8, 1.5 Hz, 2H), 7.49 (dd, J=8.8, 1.5 Hz, 2H), 7.04 (m, 1H), 6.43 (m, 1H), 5.07 (dd, J=10.9, 2.2 Hz, 1H), 4.23 (m, 1H), 4.04 (m, 0.5H), 3.58 (m, 0.5H), 2.97 (m, 1H), 2.71-2.26 (m, 2H), 2.10 (m, 1H), 1.83-1.43 (m, 5H), 0.90 (s, 4.5H), 0.77 (s, 4.5H), 0.03 (s, 3H), −0.01 (s, 3H).

reactant | 3-(tert-butyl-dimethyl-silanyloxy)-5-[4-(4-chloro-benzenesulfonyl)-5,8-difluoro-chroman-3-yl]-pentan-1-ol | 1.30 mmol, 730 mg | C(C)(C)(C)[Si](OC(CCO)CCC1COC2=C(C=CC(=C2C1S(=O)(=O)C1=CC=C(C=C1)Cl)F)F)(C)C | C26H35ClF2O5SSi
reactant | Et3N | 2.6 mmol, 360 μL | CCN(CC)CC | C6H15N
reactant | MsCl | 1.95 mmol, 150 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | KOt-Bu | 3.0 mmol, 1 M, 3.0 mL | CC(C)(C)[O-].[K+]
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | tert-Butyl-[11a-(4-chloro-benzenesulfonyl)-1,4-difluoro-6,6a,7,8,9,10,11,11a-octahydro-cyclohepta[c]chromen-9-yloxy]-dimethyl-silane | 700 mg, 99% | C(C)(C)(C)[Si](C)(C)OC1CCC2(C(COC3=C(C=CC(=C23)F)F)CC1)S(=O)(=O)C1=CC=C(C=C1)Cl | C26H33ClF2O4SSi
